US07968570B2
4-Bromo-2-chloro-6-methyl-benzoic acid
Water (5 mL) was chilled in an ice bath and nitrososulfuric acid was added dropwise. A suspension of 4-Bromo-2,6-dimethyl-benzamide (1.30 g, 5.23 mmol) in dichloromethane (10 mL) was added. The organic phase was dried over magnesium sulfate and concentrated. It was taken up in ethyl acetate and extracted three times with saturated sodium bicarbonate. The combined aqueous extracts were acidified with 6M hydrochloric acid and extracted three times with ethyl acetate. The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated to provide the title compound as a colourless solid (1.14 g, 88%). 1H NMR CDCl3: δ 7.48 (s, 1H), 7.35 (s, 1H), 2.45 (s, 3H).

reactant | Water | 5 mL | O | H2O
reactant | nitrososulfuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | 4-Bromo-2,6-dimethyl-benzamide | 5.23 mmol, 1.30 g | BrC1=CC(=C(C(=O)N)C(=C1)C)C | C9H10BrNO
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-Bromo-2-chloro-6-methyl-benzoic acid | 1.14 g, 88% | BrC1=CC(=C(C(=O)O)C(=C1)C)Cl | C8H6BrClO2
